US03987047
1,2,4,5-Tetrahydro-11-methyl-10-nitro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2,4,5-tetrahydro-11-methyl-10-nitro-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-11-methyl-10-nitro-3H-azepino[4,5-b]quinoline | CC1=C2C(=NC=3C=CC=C(C13)[N+](=O)[O-])CCNCC2 | C14H15N3O2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-11-methyl-10-nitro-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 78% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC=C(C3C(=C2CC1)C)[N+](=O)[O-] | InChI=1S/C17H19N3O4.ClH/c1-3-24-17(21)19-9-7-12-11(2)16-14(18-13(12)8-10-19)5-4-6-15(16)20(22)23;/h4-6H,3,7-10H2,1-2H3;1H
